US07384963B2
2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4phenoxybenzyl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 4-phenoxybenzylamine using method N. NMR; δH [2H6]—DMSO 9.15,(1H, t), 8.00,(2H, d), 7.89,(1H, dd), 7.76,(1H, d), 7.53,(3H, m), 7.37,(4H, m), 7.11,(1H, m), 7.01-6.96,(4H, m), 4.49,(2H, d), 2.56,(3H, s), 2.31,(3H, s). LCMS; retention time 3.76 min, MH+ 476.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 4-phenoxybenzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
product | 2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4phenoxybenzyl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C30H25N3O3
